US07217722B2
N-(4-Methoxyphenyl)-N′-(4-pyridyl)urea
4-Aminopyridine (100 mg, 1.06 mmol) and 4-methoxyphenyl isocyanate (158.5 mg, 1.06 mmol) were dissolved in toluene, and the mixture was then stirred at 110° C. for 4 hr.

reactant | 4-Aminopyridine | 1.06 mmol, 100 mg | NC1=CC=NC=C1 | C5H6N2
reactant | 4-methoxyphenyl isocyanate | 1.06 mmol, 158.5 mg | COC1=CC=C(C=C1)N=C=O | C8H7NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(4-Methoxyphenyl)-N′-(4-pyridyl)urea | COC1=CC=C(C=C1)NC(=O)NC1=CC=NC=C1 | C13H13N3O2
